US06130217
3-(2-Phenylthiazol-4-yl)phenol was prepared from α-bromo-3-acetoxy acetophenone and thiobenzamide as described in Preparation 42 and it was used in a crude state for the preparation of the glycidyl ether; m.p., 109-110° C.

reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
product | 3-(2-Phenylthiazol-4-yl)phenol | C1(=CC=CC=C1)C=1SC=C(N1)C=1C=C(C=CC1)O | C15H11NOS
